US05663352
4-Acetyl-4-phenylpiperidine hydrochloride was dissolved in water, the solution was made basic by addition of potassium carbonate, and the mixture was extracted with ethyl acetate. The extracts were dried (Na2SO4) and concentrated to give 4-acetyl-4-phenylpiperidine. To a solution of this compound (2.2 g) in dichloromethane (50 ml) was added di-t butyl dicarbonate (2.8 g). After 15 minutes the solution was washed with water, dried, concentrated and the residue crystallised from petroleum ether to give the title compound, mp 91°-92° C.

reactant | 4-Acetyl-4-phenylpiperidine hydrochloride | Cl.C(C)(=O)C1(CCNCC1)C1=CC=CC=C1
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 4-acetyl-4-phenylpiperidine | C(C)(=O)C1(CCNCC1)C1=CC=CC=C1 | C13H17NO
